US08440652B2
To a solution of the crude (S)-2-((2-aminopropyl)amino)-4-bromobenzoic acid (544 mg, 2.0 mmol) and Et3N (731 mg, 7.24 mmol) in DMF was added HATU (829 mg, 2.18 mmol). After 30 min, the reaction mixture was concentrated and purified by flash chromatography on silica gel (2-10% MeOH/DCM eluent) to provide (S)-8-bromo-3-methyl-3,4-dihydro-1H-benzo[e][1,4]diazepin-5(2H)-one as a white oily solid (464 mg, 91% yield). This material was dissolved in dioxane (20 mL), then treated with Pd2(dba)3 (83 mg, 0.09 mmol), PCy3 (121 mg, 0.43 mmol), diboron pinacol ester (595 mg, 2.35 mmol) and KOAc (532 mg, 5.43 mmol), then heated at 90° C. for 2 h. At completion, the reaction was cooled to room temperature, then filtered and concentrated. The crude material was flashed over silica gel (2-10% MeOH/DCM eluent) to provide (S)-3-methyl-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-1H-benzo[e][1,4]diazepin-5(2H)-one (527 mg, 96% yield) as a yellow solid.

reactant | (S)-2-((2-aminopropyl)amino)-4-bromobenzoic acid | 2.0 mmol, 544 mg | N[C@H](CNC1=C(C(=O)O)C=CC(=C1)Br)C | C10H13BrN2O2
reactant | Et3N | 7.24 mmol, 731 mg | CCN(CC)CC | C6H15N
reactant | HATU | 2.18 mmol, 829 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-8-bromo-3-methyl-3,4-dihydro-1H-benzo[e][1,4]diazepin-5(2H)-one | 464 mg, 91% yield | BrC=1C=CC2=C(NC[C@@H](NC2=O)C)C1 | C10H11BrN2O
